US07777047B2
N-(methylsulfonyl)-2-(2-{7-[methyl(2-thienylsulfonyl)amino]-1H-indol-2-yl}-4,5-dihydro-1,3-thiazol-5-yl)acetamide
A solution of (2-{7-[methyl(2-thienylsulfonyl)amino]-1H-indol-2-yl}-4,5-dihydro-1,3-thiazol-5-yl)acetic acid (200 mg), 2-methyl-6-nitrobenzoic acid anhydride (190 mg), 4-dimethylaminopyridine (56 mg), triethylamine (200 μL) and methanesulfonamide (46 mg) in acetonitrile (5 mL) was stirred at room temperature for 18 hr. 1N Hydrochloric acid was added to the reaction mixture, and the mixture was extracted with ethyl acetate. The ethyl acetate layer was washed with saturated brine, dried (MgSO4), and concentrated. The obtained residue was subjected to silica gel column chromatography to give the title compound (76 mg, yield 33%) as white crystals from a fraction eluted with ethyl acetate. melting point 141° C.

reactant | (2-{7-[methyl(2-thienylsulfonyl)amino]-1H-indol-2-yl}-4,5-dihydro-1,3-thiazol-5-yl)acetic acid | 200 mg | CN(C=1C=CC=C2C=C(NC12)C=1SC(CN1)CC(=O)O)S(=O)(=O)C=1SC=CC1 | C18H17N3O4S3
reactant | 2-methyl-6-nitrobenzoic acid anhydride | 190 mg | CC1=C(C(=O)OC(C2=C(C=CC=C2[N+](=O)[O-])C)=O)C(=CC=C1)[N+](=O)[O-] | C16H12N2O7
reactant | methanesulfonamide | 46 mg | CS(=O)(=O)N | CH5NO2S
reactant | Hydrochloric acid | 1N | Cl | ClH
catalyst | 4-dimethylaminopyridine | 56 mg | CN(C1=CC=NC=C1)C | C7H10N2
solvent | acetonitrile | 5 mL | C(C)#N | C2H3N
solvent | triethylamine | 200 μL | C(C)N(CC)CC | C6H15N
product | N-(methylsulfonyl)-2-(2-{7-[methyl(2-thienylsulfonyl)amino]-1H-indol-2-yl}-4,5-dihydro-1,3-thiazol-5-yl)acetamide | 76 mg, yield 33% | CS(=O)(=O)NC(CC1CN=C(S1)C=1NC2=C(C=CC=C2C1)N(S(=O)(=O)C=1SC=CC1)C)=O | C19H20N4O5S4
